US09290465B2
To a solution of 5-(4-methanesulfonyl-benzyloxy)-pyridine-2-carbaldehyde (2.44 g, 8.4 mmol) in ethanol (1.5 mL) at 0° C. was added dropwise a solution of hydroxylamine hydrochloride (1.2 g) and NaHCO3 (1.6 g) in water (15 mL) and stirred at rt for 14 h. The reaction mixture was then filtered and the filtrate air-dried to yield 5-(4-methanesulfonyl-benzyloxy)-pyridine-2-carbaldehyde oxime (2.13 g, 83%) as a white solid.

reactant | 5-(4-methanesulfonyl-benzyloxy)-pyridine-2-carbaldehyde | 8.4 mmol, 2.44 g | CS(=O)(=O)C1=CC=C(COC=2C=CC(=NC2)C=O)C=C1 | C14H13NO4S
reactant | hydroxylamine hydrochloride | 1.2 g | Cl.NO
reactant | NaHCO3 | 1.6 g | C(=O)(O)[O-].[Na+]
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 5-(4-methanesulfonyl-benzyloxy)-pyridine-2-carbaldehyde oxime | 2.13 g, 83% | CS(=O)(=O)C1=CC=C(COC=2C=CC(=NC2)C=NO)C=C1 | C14H14N2O4S
